US04425154
(c) N-[2-(1,2-Dichlorovinyloxy)phenylsulfonyl]-N'-(4-chloro-6-methoxy-pyrimidin-2-yl)urea
7.4 g of 2-(1,2-dichlorovinyloxy)phenylsulfonylisocyanate and 4.0 g of 2-amino-4-chloro-6-methoxypyrimidine are heated to 70°-80° C. in 60 ml of absolute dioxane for 3 hours. After cooling the mixture is treated with activated carbon, filtered and evaporated to 1/5 of the original volume. From the residue crystallise 9.0 g of N-[2-(1,2-Dichlorovinyloxy)phenylsulfonyl]-N'-(4-chloro-6-methoxy-pyrimidin-2-yl)urea, m.p. 196°-198° C.

reactant | 2-(1,2-dichlorovinyloxy)phenylsulfonylisocyanate | 7.4 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H5Cl2NO4S
reactant | 2-amino-4-chloro-6-methoxypyrimidine | 4.0 g | NC1=NC(=CC(=N1)Cl)OC | C5H6ClN3O
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | N-[2-(1,2-Dichlorovinyloxy)phenylsulfonyl]-N'-(4-chloro-6-methoxy-pyrimidin-2-yl)urea | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)Cl)OC | C14H11Cl3N4O5S
